US04092313
A 300 ml quantity of absolute sec-butanol, 5.8 g of metal sodium and 14.9 g of 2-chloro-5-fluoropyrimidin-4-one are treated in the same manner as in Example 6 to obtain crystals, which are then recrystallized from a water-ethanol mixture to give 17.0 g of white crystalline 2-sec-butoxy-5-fluoropyrimidin-4-one in a yield of 91.4%, m.p. 104°-105° C.

reactant | sodium | [Na] | Na
reactant | 2-chloro-5-fluoropyrimidin-4-one | 14.9 g | ClC1=NC=C(C(N1)=O)F | C4H2ClFN2O
reactant | sec-butanol | C(C)(CC)O | C4H10O
product | 2-sec-butoxy-5-fluoropyrimidin-4-one | 17.0 g, yield of 91.4% | C(C)(CC)OC1=NC=C(C(N1)=O)F | C8H11FN2O2
